US04742057
Mass (m/e): 214 (M30) . (2) A mixture of 2-acetylamino-4-acetoxymethylthiazole (72 g), potassium carbonate (23.2 g), methanol (1.1 l) and water (0.1 l) was stirred for 3 hours and 20 minutes at ambient temperature. An insoluble material was filtered off and the filtrate was neutralized with 2N hydrochloric acid and evaporated. To the residue was added a mixture of chloroform and methanol (100 ml, 1:1 V/V) and the mixture was heated. An insoluble material was filtered off and the filtrate was concentrated. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1 V/V) to give 2-acetylamino-4-hydroxymethylthiazole (41.11 g).

reactant | 2-acetylamino-4-acetoxymethylthiazole | 72 g | C(C)(=O)NC=1SC=C(N1)COC(C)=O | C8H10N2O3S
reactant | potassium carbonate | 23.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1.1 l | CO | CH4O
solvent | water | 0.1 l | O | H2O
product | 2-acetylamino-4-hydroxymethylthiazole | 41.11 g | C(C)(=O)NC=1SC=C(N1)CO | C6H8N2O2S
